US04315011
4.39 g. (10 mmoles) of 1-ethyl-1-(2'-methoxycarbonylethyl)-1,2,3,4,6,7-hexahydro-12H-indolo[2,3-a]-quinolizin-5-ium perchlorate are shaken with a mixture of 5 ml. of 10% aqueous ammonia and 50 ml. of dichloromethane. The phases are separated, the organic phase is dried over 10 g. of solid anhydrous sodium sulfate, filtered, the filtrate is evaporated to a final volume of about 40 ml., and 0.1 g. of dry ferric chloride are added to this concentrate. 2.08 g. (0.67 ml., 13 mmoles) of elemental bromine are added dropwise, under vigorous stirring, to this mixture at 25° C. The addition takes place in 5 minutes. The reaction mixture is stirred at room temperature for 2 hours, thereafter it is rendered alkaline with 10 ml. of 10% aqueous ammonia, and the precipitated ferric hydroxide is filtered off. The organic phase of the filtrate is separated, dried over 10 g. of solid anhydrous sodium sulfate, filtered, and the filtrate is evaporated. The oily residue is admixed with 10 ml. of methanol, whereupon the product separates in crystalline form containing lattice-bound methanol. In this way 3.81 g. (85%) of 1-ethyl-1-(2'-methoxycarbonylethyl)-9-bromo-1,2,3,4,6,7-hexahydro-12H-indolo[2,3-a]-quinolizin-5-ium methoxide are obtained; m.p.: 140°-142° C.

reactant | 1-ethyl-1-(2'-methoxycarbonylethyl)-1,2,3,4,6,7-hexahydro-12H-indolo[2,3-a]-quinolizin-5-ium perchlorate | 10 mmoles | Cl(=O)(=O)(=O)[O-].C(C)C1(CCC[N+]=2CCC3=C(C12)NC1=CC=CC=C13)CCC(=O)OC
reactant | ammonia | N | H3N
reactant | bromine | 13 mmoles, 0.67 ml | BrBr | Br2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-ethyl-1-(2'-methoxycarbonylethyl)-9-bromo-1,2,3,4,6,7-hexahydro-12H-indolo[2,3-a]-quinolizin-5-ium methoxide | 85% | C[O-].C(C)C1(CCC[N+]=2CCC3=C(C12)NC1=CC=C(C=C13)Br)CCC(=O)OC | InChI=1S/C21H25BrN2O2.CH3O/c1-3-21(10-7-18(25)26-2)9-4-11-24-12-8-15-16-13-14(22)5-6-17(16)23-19(15)20(21)24;1-2/h5-6,13H,3-4,7-12H2,1-2H3;1H3/q;-1/p+1
